US06946491B2
Step A: Preparation of tert-Butyl 4-(2,6-difluorophenyl)-4-oxobutyrate:
To a stirred solution of 2,6-Difluoroacetophenone (5 g, 32 mmol) in dry THF (40 ml) and DMPU (8 ml) was added a solution of lithium bis(trimethylsilyl)amide (1.0M, 45 ml) at 60° C. under argon. After stirring for 10 minutes at −60° C., tert-Butyl bromoacetate (6.99 g, 35.8 mmol) was added rapidly. The reaction mixture was stirred for an additional 10 minutes and then warmed to room temperature for 4 hours. The crude mixture was taken in EtOAc and washed with water and brine. The aqueous layer was extracted one more time with EtOAc. The combined organic layers were dried over Na2SO4, filtered, concentrated and purified by flash chromatography on a silica gel column (hex:ethyl acetate, 2:1) to provide the title compound.

reactant | 2,6-Difluoroacetophenone | 32 mmol, 5 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | lithium bis(trimethylsilyl)amide | 1.0M, 45 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-Butyl bromoacetate | 35.8 mmol, 6.99 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMPU | 8 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-(2,6-difluorophenyl)-4-oxobutyrate | FC1=C(C(=CC=C1)F)C(CCC(=O)OC(C)(C)C)=O | C14H16F2O3
